US07393868B2
5-(4-Bromo-benzyl)-2H-tetrazole
Stir a mixture of SiCl4 (1.7 g, 10 mmol, 2 eq.) and NaN3 (1.95 g, 30 mmol, 6 eq.) in 50 mL of acetonitrile for 2 hours. Add 1.07 g of 2-(4-bromophenyl) acetamide (5 mmol, 1 eq.) and heat to 85° C. for 5 hour. Cool to room temperature and filter off the solid wash the solid with EtOAc. Wash the ester layer with water, saturated aq. sodium chloride, dry over MgSO4 and evaporate the solvent to afford 900 mg title compound (80%). MS (m/e): 237.0.

reactant | SiCl4 | 10 mmol, 1.7 g, 2 eq. | [Si](Cl)(Cl)(Cl)Cl | Cl4Si
reactant | NaN3 | 30 mmol, 1.95 g, 6 eq. | [N-]=[N+]=[N-].[Na+]
reactant | 2-(4-bromophenyl) acetamide | 5 mmol, 1.07 g, 1 eq. | BrC1=CC=C(C=C1)CC(=O)N | C8H8BrNO
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 5-(4-Bromo-benzyl)-2H-tetrazole | 900 mg, 80% | BrC1=CC=C(CC=2N=NNN2)C=C1 | C8H7BrN4
